2134-10-01 02:38:00 Physician Attending Progress Note
Chief Complaint: ADMIT Note:
   Diabetic ketoacidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx of type I DM, [**Doctor Last Name 598**] disease, gastroparesis. Hx of multiple
   admissions for DKA, most recently [**2134-8-11**]. In past two days, serum
   glucose has been elevated to 500's. Has had some nausea typical of her
   gastroparesis. One episode of emesis. Has had fever to 101. Had dysuria
   as well.
   Came to ED where she was afebrile. O2 sat 98% without supplemental
   oxygen. Right groin central line placed for access. Started on IV
   insulin (no apparent bolus given) and IV fluids. Denied visual changes,
   dyspnea. No recent contacts with [**Name2 (NI) 1757**] individuals.
   PH:
   Diabetes mellitus, type I
   Gastroparesis
   [**Doctor Last Name 598**] Disease
   Polyneuropathy
   Hypertension
   Asthma
   Arthritis
   Hepatitis C
   GERD
   Migraine headache
   Depression
   Meds at home: include among others - colace, insulin, naproxyn,
   protonix, singulair, reglan, zocor, ASA
   FH/SH/ROS - see resident note
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown; Urtica
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 7 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-1**] 02:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 101 (101 - 106) bpm
   BP: 135/65(80) {110/59(73) - 135/65(80)} mmHg
   RR: 13 (13 - 17) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
             99 mL
   PO:
             TF:
   IVF:
   99 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    660 mL
   Urine:
   160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -561 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Dry mucus membranes
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Few, which cleared with deep
   breathing, No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, diffuse tenderness; no rebound, Bowel sounds soft,
   No(t) Distended, No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand, Lower
   back pain; no clear CVA tenderness
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   351 K/uL
   544
   1.2 mg/dL
   13
   4.5 mEq/L
   22 mg/dL
   98 mEq/L
   133 mEq/L
   31.1 %
   6.0 K/uL
        [image002.jpg]
                             [**2134-10-1**]  01:00 AM
   WBC
   6.0
   Hct
   31.1
   Plt
   351
   Cr
   1.2
   Other labs: PT / PTT / INR:12.3/26.4/1.0, Lactic Acid:2.7 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR: no infiltrates or effusions
   Assessment and Plan
   DIABETIC KETOACIDOSIS
   FEVER
   ANEMIA
   GASTROPARESIS
   =================
   Patient with evidence of diabetic ketoacidosis. Had fever with symptoms
   of urinary tract infection, although UA not impressive. Would treat for
   UTI at this time. CXR clear; no acute ECG changes. Patient still with
   evidence of volume depletion by exam and labs (blood sugar > 500). Need
   to increase fluids (at least 4L down) and increase insulin (bicarb has
   dropped from admission to ED). Would bolus with 7 units of insulin and
   continue insulin infusion. [**Month (only) 60**] be somewhat insulin resistant with
   possible infection. Would begin to replete potassium now along with
   magnesium. No need to give bicarbonate now. Contact [**Name (NI) 276**] team later
   today.
   Hct down chronically. No evidence of active bleeding. Will probably
   drop with volume resuscitation. Not at transfusion threshold.
   Try to place PIC line later today and remove groin line.
   ICU Care
   Nutrition: oral as tolerated
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2134-10-1**] 01:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-10-01 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2134-10-1**] 01:34 AM
 NASAL SWAB - At [**2134-10-1**] 02:20 AM
 URINE CULTURE - At [**2134-10-1**] 03:25 AM
   - Received 2L of LR, currently getting 1L of D5 1/2NS at 250cc/hr
   - Currently on insulin gtt at 3u/hr down from the initial 7u/hr
   Allergies:
   Penicillins
   Unknown; Urtica
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-1**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 89 (89 - 108) bpm
   BP: 119/66(79) {110/57(68) - 135/66(80)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
             2,452 mL
   PO:
             TF:
   IVF:
   2,452 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    780 mL
   Urine:
   280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,672 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   VBG: 7.25/35/58/16
   Physical Examination
   General: Sleepy, thin, age appropriate female lying in bed on her right
   side, in NAD
   HEENT: Sclera anicteric, oropharynx clear with poor dentition, mucous
   membranes less dry
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Borderline tachycardic, regular, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, diffuse mild tenderness to palpation without any focal
   point tenderness, non-distended, bowel sounds present, no rebound
   tenderness or guarding, no organomegaly
   GU: Right femoral line in place, c/d/i
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   tenderness to palpation along bilateral shins, no calf tenderness
   Neuro: A&Ox3, CN's symmetric
   Labs / Radiology
   328 K/uL
   8.8 g/dL
   186 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.9 mEq/L
   18 mg/dL
   107 mEq/L
   136 mEq/L
   26.2 %
   6.4 K/uL
        [image002.jpg]
                             [**2134-10-1**]  01:00 AM
                             [**2134-10-1**]  05:12 AM
   WBC
   6.0
   6.4
   Hct
   31.1
   26.2
   Plt
   351
   328
   Cr
   1.2
   0.9
   TropT
   <0.01
   Glucose
   544
   186
   Other labs:
    PT / PTT / INR:12.4/23.2/1.0,
   CK / CKMB / Troponin-T:36/2/<0.01,
    ALT / AST:21/24, Alk Phos / T Bili:96/0.3, Lactic Acid:2.7 mmol/L,
   Albumin:3.3 g/dL, LDH:151 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   UA: neg
   MICRO: blood culture and urine culture pending from [**2134-10-1**]
   IMAGING: none today, CXR from admission unremarkable, no acute
   cardiopulmonary process
   Assessment and Plan
   Ms. [**Known lastname 597**] is a 55 year old female with type 1 diabetes mellitus with
   many admissions for DKA, who presents with DKA.
   .
   # Diabetic Ketoacidosis: Patient has history of many admissions for
   DKA.
   It is not entirely clear what prompted this episode, though could be
   secondary to poor PO intake coupled with urinary tract infection. Urine
   anaylsis was unremarkable, EKG was overall unchanged. CXR without
   evidence of infiltrate. Pt is not on any medications / drugs that
   precipitate DKA.
   - Continue to hydrate with LR (at least 6L)
   - Monitoring q4hour electrolytes, especially potassium, anion gap
   - Continue insulin drip until anion gap closes and glucose <200, then
   start sub-cutaneous insulin (start with home dose of Lantus 28 units)
   to overlap with insulin gtt for an hour before insulin gtt is d/c
   - continue IVF with 1/2NS with D5
   - replete K when when  <5
   - Checking VBG [**Hospital1 **] to get sense of pH
   - follow up blood and urine cultures
   - Will touch base with [**Last Name (un) 276**] team in AM to let them know she has been
   admitted
   .
   # Question of urinary tract infection:
   - f/u repeat urine analysis and culture.
   - d/c cipro given no evidence of UTI
   .
   # Hypertension: Currently normo-tensive
   - Will re-start and adjust home medications this afternoon when BP is
   stable.
   .
   # Hyponatremia: Patient's corrected sodium for her hyperglycemia is
   actually 135, so she is not truly hyponatremic. Will continue to
   monitor.
   .
   # Acute renal failure: Resolved. Baseline appears to be 0.7-0.8.
   Suspect this is due to poor PO intake in setting of nauesa and
   gastroparesis, coupled with osmotic diuresis from DKA and taking [**Last Name (un) 239**]
   and NSAIDs.
   - can restart naproxen, Cozaar if repeat lytes continue to show
   baseline Creatinine
   - IVF for treatment of DKA as discussed above
   - Should renal function not return to baseline, would further work-up
   with renal ultrasound, FeNa, etc.
   .
   # Anion gap acidosis: Closed after aggressive IVF resuscitation.
   Suspect largely due to DKA, however patient does have elevated lactate
   that may also be playing a role. BUN also elevated above her baseline
   (10->20). No gap of the gap (no secondary acid-base disorder) appears
   to be present.
   - Continue to monitor
   - Checking VBG [**Hospital1 **] to get sense of pH
   .
   # [**Doctor Last Name 598**] disease: TSH was 0.068 during last admission, however
   difficult to interpret as this is checked in setting of acute infection
   and DKA admission.
   - Continue methimazole
   .
   # Asthma: No significant wheezing on examination to suggest
   exacerbation.
   - Contiue home medications
   .
   # Anemia: Currently HCT much better than baseline (27ish), likely
   representing hemoconcentration.
   - Guaiac stools, continue to monitor.
   .
   # GERD: Continue protonix
   .
   # Depression, anxiety: Continue amitriptyline and diazepam
   .
   # Chronic pain: Continue home regimen of percocet, neurontin
   ICU Care
   Nutrition: NPO currently, can switch to diabetic diet today
   Glycemic Control:  insulin gtt continued, sc insulin started (with the
   two overlapping for an hour)
   Lines:
   Multi Lumen - [**2134-10-1**] 01:34 AM :  Right femoral TLC for now, patient
   has very difficult access, will likely need PICC line if anticipated
   hospital stay beyond 1-2 days
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: on PPI at home
   VAP:  N/A
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) 8893**] ([**Telephone/Fax (1) 10209**].
   Daughter [**Name (NI) 8893**] called and updated.
   Code status: Full code
   Disposition: ICU for now. Can transfer to floor once pt does not
   require insulin gtt

2134-10-01 10:41:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 y.o. woman with  type I DM, [**Doctor Last Name 598**] disease, gastroparesis. Hx of
   multiple admissions for DKA, most recently [**2134-8-11**]. In past two days,
   serum glucose has been elevated to 500's. Has had some nausea typical
   of her gastroparesis. One episode of emesis. Has had fever to 101. Had
   dysuria as well.
    In the ED she was afebrile. O2 sat 98% without supplemental oxygen.
   Right groin central line placed for access. Started on IV insulin (no
   apparent bolus given) and IV fluids. Denied visual changes, dyspnea. No
   recent contacts with [**Name2 (NI) 1757**] individuals.
   24 Hour Events:
 MULTI LUMEN - START [**2134-10-1**] 01:34 AM
 NASAL SWAB - At [**2134-10-1**] 02:20 AM
 URINE CULTURE - At [**2134-10-1**] 03:25 AM
   Received 2 L LR in ICU, then switched to D5 1/2 NS given gap closed.
                       History obtained from Patient
   Allergies:
   Penicillins
   Unknown; Urtica
   Last dose of Antibiotics:
   Ciprofloxacin - [**2134-10-1**] 06:00 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-1**] 08:19 AM
   Other medications:
   ASA
   simvastatin
   salmeterol discus
   reglan
   protonix
   neurontin
   fluticasone
   colace
   amitriptyline
   SQ heparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, improved
   Genitourinary: Foley
   Pain: [**1-22**] Minimal
   Pain location: back pain, chronic unchanged
   Flowsheet Data as of  [**2134-10-1**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 88 (85 - 108) bpm
   BP: 104/45(58) {104/45(58) - 135/71(83)} mmHg
   RR: 13 (13 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
             4,039 mL
   PO:
             100 mL
   TF:
   IVF:
   3,939 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    940 mL
   Urine:
   440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  3,099 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, dry oropharynx
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, diffuse mild tenderness; no
   rebound or guarding
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   328 K/uL
   186 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.9 mEq/L
   18 mg/dL
   107 mEq/L
   136 mEq/L
   26.2 %
   6.4 K/uL
        [image002.jpg]
                             [**2134-10-1**]  01:00 AM
                             [**2134-10-1**]  05:12 AM
   WBC
   6.0
   6.4
   Hct
   31.1
   26.2
   Plt
   351
   328
   Cr
   1.2
   0.9
   TropT
   <0.01
   Glucose
   544
   186
   Other labs: PT / PTT / INR:12.4/23.2/1.0, CK / CKMB /
   Troponin-T:36/2/<0.01, ALT / AST:21/24, Alk Phos / T Bili:96/0.3,
   Lactic Acid:2.7 mmol/L, Albumin:3.3 g/dL, LDH:151 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Microbiology: UCx: Pending
   Blood cultures: Pending
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA):  Unclear what might have tipped her
   over.  Had compliants with urination albeit UA looks benign.  Cultures
   pending.  Does not appear toxic.  ECG without acute changes.
   Troponin/CPK flat.  [**Month (only) 60**] be viral syndrome, poor po intake.  Still
   appears clinically dry.  Likely under resusitated from a volume
   standpoint.  Advance diet as tolerated.  Will get regular insulin and
   glargine when stopping insulin drip.  Replete electrolytes as needed.
 ANEMIA:  Hct down to 26 (from 31) with volume replacement overnight.
   This is closer to her baseline.  Guaiac stools, follow serial hcts.
 CHRONIC PAIN:  Getting percocet for chronic back pain, will continue
   here.
 ACUTE RENAL FAILURE: In setting of DKA and volume depletion, likely
   prerenal.  Cr has improved with volume resusitation.
 UTI:  Given ciprofloxicin but given low suspicion for infection will
   stop now.
 HYPERTENSION, BENIGN:  Anticipate restarting antihypertensives after
   further volume resusitation.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2134-10-1**] 01:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2134-10-02 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - urine ketones: 10 -> 0
   - lactate, VBG: pH 7.33 pCO2 43 pO2 43 HCO3 24 Lactate:1.8
   - d/c'd Cipro bc urine cx neg at 24hr
   - started SC Insulin (28U glragine [**Hospital1 **] + ISS), d/c'd gtt
   - Lytes: K 4.2 -> 3.7, repleted; also repleted Mg (1.8)
   - LR x 2L, continued D5 1/2NS, another 1L LR
   - started diabetic diet
   - did not start BP med [**Last Name (LF) 10219**], [**First Name3 (LF) 178**] consider in AM
   - emailed Dr. [**Last Name (STitle) 10208**] ([**Last Name (un) 276**]) about Ms. [**Known lastname 597**]
   - tried to get PIV, unsuccessful, d/c fem line
   Allergies:
   Penicillins
   Unknown; Urtica
   Last dose of Antibiotics:
   Ciprofloxacin - [**2134-10-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-1**] 11:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-2**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 81 (80 - 96) bpm
   BP: 104/54(66) {101/45(58) - 141/78(92)} mmHg
   RR: 13 (8 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                 11,183 mL
                                                                     74 mL
   PO:
                                                                  1,160 mL
             TF:
   IVF:
                                                                 10,023 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    605 mL
   Urine:
                                                                  1,740 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,943 mL
                                                                   -531 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General: lying in bed comfortably
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, diffuse mild tenderness to palpation without any focal
   point tenderness, non-distended, bowel sounds present, no rebound
   tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   239 K/uL
   7.9 g/dL
   200 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   8 mg/dL
   108 mEq/L
   138 mEq/L
   24.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2134-10-1**]  01:00 AM
                             [**2134-10-1**]  05:12 AM
                             [**2134-10-1**]  10:42 AM
                             [**2134-10-1**]  08:44 PM
                             [**2134-10-2**]  05:37 AM
   WBC
   6.0
   6.4
   5.1
   Hct
   31.1
   26.2
   24.5
   Plt
   [**Telephone/Fax (3) 10220**]
   Cr
   1.2
   0.9
   0.8
   0.8
   0.8
   TropT
   <0.01
   Glucose
   544
   186
   175
   162
   200
   Other labs:
   Lactic Acid:1.8 mmol/L
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
                                                                     8:45p
   UA:
   Color
   Straw
   Appear
   Clear
   SpecGr
   1.004
   pH
   5.5
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Neg
   Nitr
   Neg
   Prot
   Neg
   Glu
   Neg
   Ket
   Neg
   [**10-1**]:
   Urine and blood cx NTD
   Assessment and Plan
   Ms. [**Known lastname 597**] is a 55 year old female with type 1 diabetes mellitus with
   many admissions for DKA, who presents with DKA.
   .
   # Diabetic Ketoacidosis: Patient has history of many admissions for
   DKA.
   It is not entirely clear what prompted this episode, though could be
   secondary to poor PO intake coupled with urinary tract infection. Urine
   anaylsis was unremarkable, EKG was overall unchanged. CXR without
   evidence of infiltrate. Pt is not on any medications / drugs that
   precipitate DKA.
   - Continue to hydrate with LR (at least 6L)
   - Monitoring q4hour electrolytes, especially potassium, anion gap
   - Continue insulin drip until anion gap closes and glucose <200, then
   start sub-cutaneous insulin (start with home dose of Lantus 28 units)
   to overlap with insulin gtt for an hour before insulin gtt is d/c
   - continue IVF with 1/2NS with D5
   - replete K when when  <5
   - Checking VBG [**Hospital1 **] to get sense of pH
   - follow up blood and urine cultures
   - Will touch base with [**Last Name (un) 276**] team in AM to let them know she has been
   admitted
   .
   # Question of urinary tract infection:
   - f/u repeat urine analysis and culture.
   - d/c cipro given no evidence of UTI
   - d/c Foley
   .
   # Hypertension: Currently normo-tensive
   - Will re-start and adjust home medications this afternoon when BP is
   stable.
   .
   # Hyponatremia: Patient's corrected sodium for her hyperglycemia is
   actually 135, so she is not truly hyponatremic. Will continue to
   monitor.
   .
   # Acute renal failure: Resolved. Baseline appears to be 0.7-0.8.
   Suspect this is due to poor PO intake in setting of nauesa and
   gastroparesis, coupled with osmotic diuresis from DKA and taking [**Last Name (un) 239**]
   and NSAIDs.
   - can restart naproxen, [**Last Name (un) 10219**] if repeat lytes continue to show
   baseline Creatinine
   - IVF for treatment of DKA as discussed above
   - Should renal function not return to baseline, would further work-up
   with renal ultrasound, FeNa, etc.
   .
   # Anion gap acidosis: Closed after aggressive IVF resuscitation.
   Suspect largely due to DKA, however patient does have elevated lactate
   that may also be playing a role. BUN also elevated above her baseline
   (10->20). No gap of the gap (no secondary acid-base disorder) appears
   to be present.
   - Continue to monitor
   - Checking VBG [**Hospital1 **] to get sense of pH
   .
   # [**Doctor Last Name 598**] disease: TSH was 0.068 during last admission, however
   difficult to interpret as this is checked in setting of acute infection
   and DKA admission.
   - Continue methimazole
   .
   # Asthma: No significant wheezing on examination to suggest
   exacerbation.
   - Contiue home medications
   .
   # Anemia: Currently HCT much better than baseline (27ish), likely
   representing hemoconcentration.
   - Guaiac stools, continue to monitor.
   .
   # GERD: Continue protonix
   .
   # Depression, anxiety: Continue amitriptyline and diazepam
   .
   # Chronic pain: Continue home regimen of percocet, neurontin
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control: 28U glargine [**Hospital1 **] + ISS
   Lines:
   Multi Lumen - [**2134-10-1**] 01:34 AM
 d/c today prior to transfer
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: on PPI at home
   VAP:  N/A
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) 8893**] ([**Telephone/Fax (1) 10209**].
   Daughter [**Name (NI) 8893**] called and updated.
   Code status: Full code
   Disposition: transfer to floor today

2134-10-02 09:03:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   -Patient with urine ketones resolved
   -Patient Rx with Cipro for possible UTI but D/C'd with negative culture
   -Insulin gtt D/C'd and move to sq insulin
   -PO diet restarted
   -Femoral line in place but unable to get peripheral lines
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown; Urtica
   Last dose of Antibiotics:
   Ciprofloxacin - [**2134-10-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-1**] 11:01 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2134-10-2**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 81 (80 - 96) bpm
   BP: 104/54(66) {101/45(58) - 141/78(92)} mmHg
   RR: 13 (8 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                 11,183 mL
                                                                     80 mL
   PO:
                                                                  1,160 mL
             TF:
   IVF:
                                                                 10,023 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    605 mL
   Urine:
                                                                  1,740 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,943 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
patient complain of LE discomfort
she has no clonus,
   decreaed reflexes and mild decrease in strength in left LE which is
   complicated by pain limiting effort in regards to exam.  No suggestion
   of upper motor compromise outside of mild asymetry on motor exam
   limited by pain.
   Labs / Radiology
   7.9 g/dL
   239 K/uL
   200 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   8 mg/dL
   108 mEq/L
   138 mEq/L
   24.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2134-10-1**]  01:00 AM
                             [**2134-10-1**]  05:12 AM
                             [**2134-10-1**]  10:42 AM
                             [**2134-10-1**]  08:44 PM
                             [**2134-10-2**]  05:37 AM
   WBC
   6.0
   6.4
   5.1
   Hct
   31.1
   26.2
   24.5
   Plt
   [**Telephone/Fax (3) 10220**]
   Cr
   1.2
   0.9
   0.8
   0.8
   0.8
   TropT
   <0.01
   Glucose
   544
   186
   175
   162
   200
   Other labs: PT / PTT / INR:12.4/23.2/1.0, CK / CKMB /
   Troponin-T:36/2/<0.01, ALT / AST:21/24, Alk Phos / T Bili:96/0.3,
   Lactic Acid:1.8 mmol/L, Albumin:3.3 g/dL, LDH:151 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: U/A--negative ketones
   Microbiology: Blood and Urine Cultures-Negative
   Assessment and Plan
   55 yo female with h/o type I DM--admit with DKA
   1)DIABETIC KETOACIDOSIS (DKA)-
   -Glargine 28 Units [**Hospital1 **]
   -PO diet
   -Continue sliding scale
   -Will need Endo follow up
   2)Pain
Appears to be components of back pain possibly from local disc
   involvement, peripheral neuropathy in the setting of DM and arthritis
   -Continue neurontin
   -Will need close monitoring of exam as patient moves to floor
   -Percocet as needed
   2)Anemia-Near baseline and will have to monitor over time
   ICU Care
   Nutrition: Diabetic Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2134-10-1**] 01:34 AM
d and will need to consider PICC
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes